### PR TITLE
[Merged by Bors] - feat(ModularForms): (normalized) derivative of modular forms

### PR DESCRIPTION
**Pull request by seewoo5**
Derivative of modular forms, stems from [Sphere Packing project](https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean).

The major goal is two-fold: prove Ramanujan's identities and also prove that Serre derivative preserves modularity (first uses second).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/ModularForms/Derivative.lean [hunk 1]
```diff
@@ -0,0 +1,171 @@
+module
+
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/Derivative.lean:7]: You need a copyright thing here.

File: Mathlib/NumberTheory/ModularForms/Derivative.lean [hunk 2]
```diff
@@ -0,0 +1,171 @@
...
+public import Mathlib.NumberTheory.ModularForms.EisensteinSeries.E2.MDifferentiable
+
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/Derivative.lean:9]: Also a docstring to say whats in the file

File: Mathlib/NumberTheory/ModularForms/Derivative.lean [hunk 3]
```diff
@@ -0,0 +1,171 @@
...
+/--
+`DifferentiableAt` on `ℂ` implies `MDifferentiableAt` on `ℍ`.
+-/
+lemma DifferentiableAt_MDifferentiableAt {G : ℂ → ℂ} {z : ℍ}
+    (h : DifferentiableAt ℂ G ↑z) : MDifferentiableAt 𝓘(ℂ) 𝓘(ℂ) (G ∘ (↑) : ℍ → ℂ) z := by
+  rw [mdifferentiableAt_iff]
+  apply DifferentiableAt.congr_of_eventuallyEq h
+  filter_upwards [isOpen_upperHalfPlaneSet.mem_nhds z.im_pos] with w hw
+  simp only [Function.comp_apply, ofComplex_apply_of_im_pos hw]
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/Derivative.lean]: Why not combine these into an iff. Also can't you prove this more easily using the DifferentiableOn result we already have by doing something like `.differentiableAt`

File: Mathlib/NumberTheory/ModularForms/Derivative.lean [hunk 4]
```diff
@@ -0,0 +1,171 @@
...
+open Real Complex
+open scoped Manifold
+
+@[expose] public noncomputable section
+
+/-!
+Definition of (Serre) derivative of modular forms.
+-/
+noncomputable def D (F : ℍ → ℂ) : ℍ → ℂ :=
+  fun (z : ℍ) => (2 * π * I)⁻¹ * ((deriv (F ∘ ofComplex)) z)
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/Derivative.lean]: I would maybe called something like `derivOfComplex` or something like that. Also do we want this to maybe be a private def?

File: Mathlib/NumberTheory/ModularForms/Derivative.lean [hunk 5]
```diff
@@ -0,0 +1,171 @@
...
+  rw [mdifferentiableAt_iff]
+  apply DifferentiableAt.congr_of_eventuallyEq h
+  filter_upwards [isOpen_upperHalfPlaneSet.mem_nhds z.im_pos] with w hw
+  simp only [Function.comp_apply, ofComplex_apply_of_im_pos hw]
+
+/--
+The derivative operator `D` preserves MDifferentiability.
+If `F : ℍ → ℂ` is MDifferentiable, then `D F` is also MDifferentiable.
+-/
+theorem D_differentiable {F : ℍ → ℂ} (hF : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) F) :
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/Derivative.lean]: This should be called something like derivOfComplex_Mdifferentiable.

File: Mathlib/NumberTheory/ModularForms/Derivative.lean [hunk 6]
```diff
@@ -0,0 +1,171 @@
...
+    fun w hw => (MDifferentiableAt_DifferentiableAt (hF ⟨w, hw⟩)).differentiableWithinAt
+  MDifferentiableAt.mul mdifferentiableAt_const <| DifferentiableAt_MDifferentiableAt <|
+    (hDiffOn.deriv isOpen_upperHalfPlaneSet).differentiableAt
+      (isOpen_upperHalfPlaneSet.mem_nhds z.im_pos)
+
+/--
+Basic properties of derivatives: linearity, Leibniz rule, etc.
+-/
+@[simp]
+theorem D_add (F G : ℍ → ℂ) (hF : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) F) (hG : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) G) :
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/Derivative.lean]:
```suggestion
theorem D_add (F G : ℍ → ℂ) (hF : MDiff F) (hG : MDiff G) :
```
We have some new notation for these things. This might work if you update mathlib. Also, as above the names need updating.

File: Mathlib/NumberTheory/ModularForms/Derivative.lean (hunk 5 above)
Comment (CBirkbeck) [reply Mathlib/NumberTheory/ModularForms/Derivative.lean]: The names below also need updating.

File: Mathlib/NumberTheory/ModularForms/Derivative.lean [hunk 7]
```diff
@@ -0,0 +1,171 @@
...
+  simp only [Pi.add_apply, Pi.mul_apply, Pi.ofNat_apply]
+  ring
+
+@[simp]
+theorem D_const (c : ℂ) : D (Function.const _ c) = 0 := by
+  ext z
+  change (2 * π * I)⁻¹ * deriv (fun _ : ℂ => c) (z : ℂ) = 0
+  simp [deriv_const]
+
+
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/Derivative.lean]:
```suggestion

```

File: Mathlib/NumberTheory/ModularForms/Derivative.lean [hunk 8]
```diff
@@ -0,0 +1,171 @@
...
+    SerreD (k₁ + k₂) (F * G) = (SerreD k₁ F) * G + F * (SerreD k₂ G) := by
+  ext z
+  simp [SerreD, D_mul F G hF hG]
+  ring_nf
+
+/--
+The Serre derivative preserves MDifferentiability.
+If `F : ℍ → ℂ` is MDifferentiable, then `SerreD k F` is also MDifferentiable.
+-/
+theorem SerreD_differentiable {F : ℍ → ℂ} (k : ℂ)
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/Derivative.lean]:
```suggestion
theorem SerreD_mdifferentiable {F : ℍ → ℂ} (k : ℂ)
```

**Review by CBirkbeck — COMMENTED** [review]
Here are some quick comments to get started. I would also name the file SerreDerivative instead.

File: Mathlib/NumberTheory/ModularForms/Derivative.lean (hunk 6 above)
Comment (seewoo5) [reply Mathlib/NumberTheory/ModularForms/Derivative.lean]: Thanks, maybe we should do the same thing for sphere packing project?

File: Mathlib/NumberTheory/ModularForms/Derivative.lean (hunk 4 above)
Comment (seewoo5) [reply Mathlib/NumberTheory/ModularForms/Derivative.lean]: `D` is a standard notation in literature for normalized derivatives, so I'm not sure if I want to change the name. Do you have other suggestions that is more close to `D`?

File: Mathlib/NumberTheory/ModularForms/Derivative.lean (hunk 3 above)
Comment (seewoo5) [reply Mathlib/NumberTheory/ModularForms/Derivative.lean]: I actually found that we don't even need this - there's already `mdifferentiableAt_iff`.

File: Mathlib/NumberTheory/ModularForms/Derivative.lean (hunk 4 above)
Comment (wwylele) [reply Mathlib/NumberTheory/ModularForms/Derivative.lean]: One option is to make `D` a scoped notation. If you still want to use `D` as the name, I think it should be namespaced (`ModularForm.D`?) - but this also collides with the naming convention because it should be `ModularForm.d` for non-type def

Comment (tb65536) [reply Mathlib/NumberTheory/ModularForms/Derivative.lean]: I would also recommend scoped notation for this, rather than having a one-letter name.

Comment (seewoo5) [reply Mathlib/NumberTheory/ModularForms/Derivative.lean]: I'm thinking of
```lean
/--
Normalized derivative $D = \frac{1}{2\pi i} \frac{d}{dz}$.
-/
@[expose] public noncomputable def normalizedDerivOfComplex (F : ℍ → ℂ) : ℍ → ℂ :=
  fun (z : ℍ) => (2 * π * I)⁻¹ * ((deriv (F ∘ ofComplex)) z)

scoped notation "D" => normalizedDerivOfComplex
```
Would this be okay? Also, for the following theorems like `D_add`, should I rename them as e.g. `normalizedDerivOfComplex_add`?

Comment (CBirkbeck) [reply Mathlib/NumberTheory/ModularForms/Derivative.lean]: I think thats fine and yes the names would need updating I think. Also there might be some superfluous brackets in there.

Comment (seewoo5) [reply Mathlib/NumberTheory/ModularForms/Derivative.lean]: Updated!

File: Mathlib/NumberTheory/ModularForms/Derivative.lean [hunk 9]
```diff
@@ -0,0 +1,171 @@
...
+@[simp]
+theorem normalizedDerivOfComplex_const (c : ℂ) : D (Function.const _ c) = 0 := by
+  ext z
+  change (2 * π * I)⁻¹ * deriv (fun _ : ℂ => c) (z : ℂ) = 0
+  simp [deriv_const]
+
+/--
+Serre derivative of weight $k$.
+-/
+@[expose] public noncomputable def SerreD (k : ℂ) (F : ℍ → ℂ) : ℍ → ℂ :=
```
Comment (tb65536) [inline Mathlib/NumberTheory/ModularForms/Derivative.lean]: Is this ok?
```suggestion
@[expose] public noncomputable def SerreDerivative (k : ℂ) (F : ℍ → ℂ) : ℍ → ℂ :=
```

File: Mathlib/NumberTheory/ModularForms/Derivative.lean [hunk 10]
```diff
@@ -0,0 +1,171 @@
...
+scoped notation "D" => normalizedDerivOfComplex
+
+/--
+The derivative operator `D` preserves MDifferentiability.
+If `F : ℍ → ℂ` is MDifferentiable, then `D F` is also MDifferentiable.
+-/
+theorem normalizedDerivOfComplex_mdifferentiable {F : ℍ → ℂ} (hF : MDiff F) : MDiff (D F) := by
+  rw [UpperHalfPlane.mdifferentiable_iff] at hF ⊢
+  let c : ℂ := (2 * π * I)⁻¹
+  have hDeriv : DifferentiableOn ℂ (fun z => c * deriv (F ∘ ofComplex) z) upperHalfPlaneSet := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/ModularForms/Derivative.lean]: I think \mapsto is preferred over => here (and elsewhere in this file)

File: Mathlib/NumberTheory/ModularForms/Derivative.lean (hunk 9 above)
Comment (wwylele) [reply Mathlib/NumberTheory/ModularForms/Derivative.lean]: should be `serreDerivative`?

Comment (tb65536) [reply Mathlib/NumberTheory/ModularForms/Derivative.lean]: Ah, yes, probably

Comment (seewoo5) [reply Mathlib/NumberTheory/ModularForms/Derivative.lean]: Updated!

File: Mathlib/NumberTheory/ModularForms/Derivative.lean (hunk 10 above)
Comment (seewoo5) [reply Mathlib/NumberTheory/ModularForms/Derivative.lean]: Updated!

File: Mathlib/NumberTheory/ModularForms/Derivative.lean [hunk 11]
```diff
@@ -0,0 +1,173 @@
...
+open scoped Manifold
+
+namespace Derivative
+
+@[expose] public noncomputable section
+
+/--
+Normalized derivative $D = \frac{1}{2\pi i} \frac{d}{dz}$.
+-/
+@[expose] public noncomputable def normalizedDerivOfComplex (F : ℍ → ℂ) : ℍ → ℂ :=
```
Comment (tb65536) [inline Mathlib/NumberTheory/ModularForms/Derivative.lean]: Is it not redundant to have `@[expose] public noncomputable` twice?

File: Mathlib/NumberTheory/ModularForms/Derivative.lean [hunk 12]
```diff
@@ -0,0 +1,173 @@
...
+  fun (z : ℍ) ↦ (2 * π * I)⁻¹ * deriv (F ∘ ofComplex) z
```
Comment (tb65536) [inline Mathlib/NumberTheory/ModularForms/Derivative.lean]: Should `(z : ℍ)` be moved before the colon?

File: Mathlib/NumberTheory/ModularForms/Derivative.lean [hunk 13]
```diff
@@ -0,0 +1,173 @@
...
+  simp [Function.comp_apply, ofComplex_apply]
+  ring
+
+
+@[simp]
+theorem normalizedDerivOfComplex_sq (F : ℍ → ℂ) (hF : MDiff F) : D (F ^ 2) = 2 * F * D F := by
+  rw [sq, normalizedDerivOfComplex_mul F F hF hF]
+  ext z
+  simp only [Pi.add_apply, Pi.mul_apply, Pi.ofNat_apply]
+  ring
```
Comment (tb65536) [inline Mathlib/NumberTheory/ModularForms/Derivative.lean:116]: Can you generalize this to arbitrary natural number powers?

File: Mathlib/NumberTheory/ModularForms/Derivative.lean [hunk 14]
```diff
@@ -0,0 +1,173 @@
...
+
+@[simp]
+theorem normalizedDerivOfComplex_const (c : ℂ) : D (Function.const _ c) = 0 := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/ModularForms/Derivative.lean]: I think `fun _ \mapsto c` is preferred over `Function.const` (e.g., see `continuous_const`).

File: Mathlib/NumberTheory/ModularForms/Derivative.lean [hunk 15]
```diff
@@ -0,0 +1,173 @@
...
+    serreDerivative k F z = D F z - k * 12⁻¹ * EisensteinSeries.E2 z * F z := rfl
+
+@[simp]
+lemma serreDerivative_eq (k : ℂ) (F : ℍ → ℂ) :
+    serreDerivative k F = fun z ↦ D F z - k * 12⁻¹ * EisensteinSeries.E2 z * F z := rfl
+
+/--
+Basic properties of Serre derivative.
+-/
+theorem serreDerivative_add (k : ℂ) (F G : ℍ → ℂ) (hF : MDiff F) (hG : MDiff G) :
```
Comment (tb65536) [inline Mathlib/NumberTheory/ModularForms/Derivative.lean]: Currently this is a docstring on just `serreDerivative_add` which doesn't seem right.

File: Mathlib/NumberTheory/ModularForms/Derivative.lean (hunk 11 above)
Comment (seewoo5) [reply Mathlib/NumberTheory/ModularForms/Derivative.lean]: I didn't know about this, I updated it.

File: Mathlib/NumberTheory/ModularForms/Derivative.lean (hunk 13 above)
Comment (seewoo5) [reply Mathlib/NumberTheory/ModularForms/Derivative.lean:116]: done!

**Review by tb65536 — APPROVED** [review]
maintainer merge
